US07884207B2
Triethylamine (8.38 mL, 60.1 mmol) was added over 10 min to a stirred mixture of 4-chloro-3-nitro-1,5-naphthyridine (6.00 g, 28.6 mmol) and 1-aminomethyl-1-cyclohexanol hydrochloride (5.00 g, 30.1 mmol) in dichloromethane (115 mL) at 0° C. The solution was allowed to warm to rt and more 1-aminomethyl-1-cyclohexanol hydrochloride (0.2 g) was added. The solution was stirred overnight and more triethylamine (0.5 mL) was added. After 30 min, the solution was partitioned between saturated aqueous sodium bicarbonate (100 mL) and chloroform (200 mL). The aqueous layer was extracted with chloroform (3×200 mL). The combined organic extracts were washed with saturated aqueous sodium bicarbonate (2×100 mL) and brine (80 mL), dried over MgSO4, filtered, concentrated under reduced pressure, and dried under vacuum to afford 1-{[(3-nitro[1,5]naphthyridin-4-yl)amino]methyl}cyclohexanol as a yellow solid (8.65 g, 100%).

reactant | Triethylamine | 60.1 mmol, 8.38 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitro-1,5-naphthyridine | 28.6 mmol, 6.00 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 1-aminomethyl-1-cyclohexanol hydrochloride | 30.1 mmol, 5.00 g | Cl.NCC1(CCCCC1)O
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 115 mL | ClCCl | CH2Cl2
catalyst | 1-aminomethyl-1-cyclohexanol hydrochloride | 0.2 g | Cl.NCC1(CCCCC1)O
product | 1-{[(3-nitro[1,5]naphthyridin-4-yl)amino]methyl}cyclohexanol | 8.65 g, 100% | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1NCC1(CCCCC1)O | C15H18N4O3
